US08017630B2
1-Hydroxybenzotriazole (456 mg, 3.38 mmol), DL-α-methyltryptamine (0.142 ml, 1.69 mmol) and N-methylmorpholine (0.375 ml, 3.38 mmol) were added to a solution of (4-dimethylamino-4-phenylcyclohexylidene)acetic acid hydrochloride (500 mg, 1.69 mmol) in dry dimethylformamide (10 ml) under argon. The solution was cooled to 0° C. and dicyclohexylcarbodiimide (687 mg, 3.38 mmol) was added. The reaction mixture was stirred at RT for 6 d. Working up of the mixture was carried out by separating off the urea which had precipitated out and introducing the filtrate into a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Still further urea thereby precipitated out and was separated off. 5 M sodium hydroxide solution (2 ml, 10 mmol) was added to the filtrate and the mixture was diluted with water (200 ml). The product thereby precipitated out as a beige-coloured solid and was to be obtained in a yield of 83% (581 mg). Separation by chromatography on silica gel was carried out with EA/methanol (15:1), (10:1) and (5:1). The less polar diastereoisomer of 2-(4-dimethylamino-4-phenylcyclohexylidene)-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide were thereby obtained as a colourless solid with an m.p. of 184-187° C. in a yield of 24% (165 mg). It was possible to isolate the more polar diastereoisomer of 2-(4-dimethylamino-4-phenylcyclohexylidene)-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide as a colourless oil in a yield of 18% (126 mg).—Both amides were diastereoisomerically pure.

reactant | 1-Hydroxybenzotriazole | 3.38 mmol, 456 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DL-α-methyltryptamine | 1.69 mmol, 0.142 ml | CC(CC1=CNC2=CC=CC=C21)N | C11H14N2
reactant | N-methylmorpholine | 3.38 mmol, 0.375 ml | CN1CCOCC1 | C5H11NO
reactant | (4-dimethylamino-4-phenylcyclohexylidene)acetic acid hydrochloride | 1.69 mmol, 500 mg | Cl.CN(C1(CCC(CC1)=CC(=O)O)C1=CC=CC=C1)C
reactant | dicyclohexylcarbodiimide | 3.38 mmol, 687 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium hydroxide | 10 mmol, 5 M, 2 ml | [OH-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 2-(4-dimethylamino-4-phenylcyclohexylidene)-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide | yield of 24% | CN(C1(CCC(CC1)=CC(=O)NC(CC1=CNC2=CC=CC=C12)C)C1=CC=CC=C1)C | C27H33N3O
